US03983246
A solution of 5.4 g of tert-butyl hypochlorite in 25 ml of carbon tetrachloride was added dropwise during 15 minutes into a solution of 6.8 g of 4-isopropylbenzaldoxime (m.p. 61°-63°, prepared in the manner described in Example II) in 50 ml of carbon tetrachloride while the temperature was maintained at 15°-23°. The green mixture was stirred for 15 minutes, then concentrated. The oil was crystallized from hexane to give 6 g of 4-isopropylbenzohydroximoyl chloride.

reactant | tert-butyl hypochlorite | 5.4 g | ClOC(C)(C)C | C4H9ClO
reactant | 4-isopropylbenzaldoxime | 6.8 g | C(C)(C)C1=CC=C(C=NO)C=C1 | C10H13NO
solvent | carbon tetrachloride | 25 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-isopropylbenzohydroximoyl chloride | 6 g | C(C)(C)C1=CC=C(C(=NO)Cl)C=C1 | C10H12ClNO
